US06420426B1
A solution of [4-hydroxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester (0.773 g, 1.83 mmol)in ethanol (10 mL, 0.18 M) was cooled to 0° C. and treated with aq KOH (5 mL, 1.25 M) and warmed to room temperature. The solution was acidified to pH 1-2, diluted with ethyl acetate and washed with sat'd aq NaCL. The organic layer was dried over Na2SO41 filtered and concentrated to give [4-hydroxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid as a white crystaline solid: mp 244 dec; 1H NMR (DMSO-d6, 300 MHz) δ 10.14 (br s, 1H), 8.97 (t, J=5.4 Hz, 1H), 7.75 (dd, J1=8.4 Hz, J2=0.3 Hz, 1H), 7.48 (d, J=9.6 Hz, 1H), 7.37-7.26 (m, 2H), 6.46 (dd, J1=8.7 Hz, J2=2.1 Hz, 1H), 6.40 (s, 1H), 4.77 (s, 2H), 4.47 (d, J=5.4 Hz, 2 Hz). Anal. calcd for C16H13BrFNO5: C, 48.26; H, 3.29; N, 3.52. Found C, 48.19; H, 3.52; N, 3.32.

reactant | [4-hydroxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid ethyl ester | 1.83 mmol, 0.773 g | C(C)OC(COC1=C(C=C(C=C1)O)C(NCC1=C(C=C(C=C1)Br)F)=O)=O | C18H17BrFNO5
reactant | KOH | 1.25 M, 5 mL | [OH-].[K+]
solvent | ethanol | 0.18 M, 10 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [4-hydroxy-2-(4-bromo-2-fluoro-benzylcarbamoyl)-phenoxy]-acetic acid | OC1=CC(=C(OCC(=O)O)C=C1)C(NCC1=C(C=C(C=C1)Br)F)=O | C16H13BrFNO5
